US20010020034A1
1,2,5-Trifluoro-3-methyl-benzene (G=F)
The title compound was prepared from 1-bromomethyl-2,3,5-trifluoro-benzene by a procedure analogous to that for 3,5-difluorotoluene, above. 1H NMR (400 MHz, CDCl3) δ ppm; MS (APCl, m/z): [M+H]+.

reactant | 1-bromomethyl-2,3,5-trifluoro-benzene | BrCC1=C(C(=CC(=C1)F)F)F | C7H4BrF3
reactant | 3,5-difluorotoluene | FC=1C=C(C=C(C1)F)C | C7H6F2
product | 1,2,5-Trifluoro-3-methyl-benzene | FC1=C(C(=CC(=C1)F)C)F | C7H5F3
